US06869954B2
5) Preparation of 2-(4-chlorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-(4-chlorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as pale brown prisms (yield: 39.5%).

reactant | 2-(4-chlorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | ClC1=CC=C(CN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)OC)F)C=C1 | C20H18ClFN2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-(4-chlorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | yield: 39.5% | ClC1=CC=C(CN2N=C(C=C(C2=O)CN2CCN(CC2)C)C2=CC(=C(C=C2)OC)F)C=C1 | C24H26ClFN4O2
